US07709647B2
29A. (1-Benzyl-6-bromo-1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid tert-butyl ester
To a solution of (6-bromo-1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid tert-butyl ester (1.636 g, 5 mmol), prepared as described in Example 1B, in DCE (16 mL) at RT was added benzaldehyde (1 mL, 10 mmol), followed by NaBH(OAc)3 (2.97 g, 14 mmol) and AcOH (0.6 mL, 10 mmol). The reaction mixture was stirred at RT for 16 h, then quenched with aqueous NaHCO3 (40 mL) and extracted with CH2Cl2 (50 mL×3). The combined extracts were washed with saturated aqueous NaCl, dried (Na2SO4), and concentrated. The resulting residue was chromatographed (silica gel) eluting with 0-20% of EtOAc in hexanes to give the title compound (1.70 g, 81%) as a white foam.

reactant | (6-bromo-1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid tert-butyl ester | 5 mmol, 1.636 g | C(C)(C)(C)OC(NC1CNC2=CC=C(C=C2C1)Br)=O | C14H19BrN2O2
reactant | benzaldehyde | 10 mmol, 1 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH(OAc)3 | 14 mmol, 2.97 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 10 mmol, 0.6 mL | CC(=O)O | C2H4O2
solvent | DCE | 16 mL | ClCCCl | C2H4Cl2
product | (1-Benzyl-6-bromo-1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid tert-butyl ester | 1.70 g, 81% | C(C)(C)(C)OC(NC1CN(C2=CC=C(C=C2C1)Br)CC1=CC=CC=C1)=O | C21H25BrN2O2
